US06969725B2
In analogy to the procedure described in example 2 b], 2-(4-fluoro-3-methyl-phenyl)-4,5-dimethyl-oxazole 3-oxide was treated with phosphorous oxychloride in chloroform to yield 4-chloromethyl-2-(4-fluoro-3-methyl-phenyl)-5-methyl-oxazole as colorless solid.

reactant | 2-(4-fluoro-3-methyl-phenyl)-4,5-dimethyl-oxazole 3-oxide | FC1=C(C=C(C=C1)C=1OC(=C([N+]1[O-])C)C)C | C12H12FNO2
reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-chloromethyl-2-(4-fluoro-3-methyl-phenyl)-5-methyl-oxazole | ClCC=1N=C(OC1C)C1=CC(=C(C=C1)F)C | C12H11ClFNO
